### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology): the cofibrant resolution functor (up to homotopy)

### PR DESCRIPTION
**Pull request by joelriou**
Let `C` be a model category. By using the right homotopy relation, we introduce the homotopy category `CofibrantObject.HoCat C` of cofibrant objects in `C`, and we define a cofibrant resolution functor `CofibrantObject.HoCat.resolution : C ⥤ CofibrantObject.HoCat C`.

---

- [x] depends on: #33084
- [x] depends on: #33085
- [x] depends on: #33086

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 1]
```diff
@@ -0,0 +1,219 @@
...
+of cofibrant objects. -/
+noncomputable def π.resolution : C ⥤ CofibrantObject.π C where
+  obj X := toπ.obj (mk (resolutionObj X))
+  map f := toπ.map (homMk (resolutionMap f))
+  map_id X := by
+    rw [← toπ.map_id]
+    exact resolutionObj_hom_ext (by simpa using .refl _)
+  map_comp {X₁ X₂ X₃} f g := by
+    rw [← toπ.map_comp]
+    refine resolutionObj_hom_ext (by simpa using .refl _)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
    exact resolutionObj_hom_ext (by simpa using .refl _)
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 2]
```diff
@@ -0,0 +1,219 @@
...
+
+instance : HomRel.IsStableUnderPostcomp (homRel C) where
+  comp_right _ h := h.postcomp _
+
+instance : HomRel.IsStableUnderPrecomp (homRel C) where
+  comp_left _ _ _ h := h.precomp _
+
+variable (C) in
+/-- The homotopy category of cofibrant objects. -/
+abbrev π := Quotient (CofibrantObject.homRel C)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]: Can this name be changed? Usually, `π` is a symbol that we use for functors, projections etc. It feels a bit weird to use it for a category. Also, _technically_ it is not capitalized despite the type being a Type here (though I don’t think we apply the capitalization rules for names that much for greek letters...).
I understand the need for a short name here. 

So maybe `Π`? Or maybe `Q` (for `Quotient`?). Or maybe `HoCat` (but maybe this one is a bit long?)

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 3]
```diff
@@ -0,0 +1,219 @@
...
+  fun ⟨_⟩ ↦ ⟨_, rfl⟩
+
+instance : Functor.Full (toπ (C := C)) := by dsimp [toπ]; infer_instance
+
+lemma toπ_map_eq {X Y : CofibrantObject C} {f g : X ⟶ Y}
+    (h : homRel C f g) :
+    toπ.map f = toπ.map g :=
+  CategoryTheory.Quotient.sound _ h
+
+lemma toπ_map_eq_iff {X Y : CofibrantObject C} [IsFibrant Y.1] (f g : X ⟶ Y) :
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
lemma toπ_map_eq_iff {X Y : CofibrantObject C} [IsFibrant Y.obj] (f g : X ⟶ Y) :
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 4]
```diff
@@ -0,0 +1,219 @@
...
+
+lemma π.resolutionObj_hom_ext {X : C} [IsCofibrant X] {Y : C} {f g : X ⟶ resolutionObj Y}
+    (h : LeftHomotopyRel (f ≫ pResolutionObj Y) (g ≫ pResolutionObj Y)) :
+    toπ.map (homMk f) = toπ.map (homMk g) := by
+  apply toπ_map_eq
+  rw [homRel_iff_rightHomotopyRel]
+  apply LeftHomotopyRel.rightHomotopyRel
+  rw [← LeftHomotopyClass.mk_eq_mk_iff] at h ⊢
+  exact (LeftHomotopyClass.postcomp_bijective_of_fibration_of_weakEquivalence
+    (X := X) (g := pResolutionObj Y)).1 h
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
    (X := X) (g := pResolutionObj Y)).injective h
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 5]
```diff
@@ -0,0 +1,219 @@
...
+  rw [← Functor.homRel_iff, Quotient.functor_homRel_eq_compClosure_eqvGen,
+    HomRel.compClosure_eq_self]
+  refine ⟨?_, .rel _ _⟩
+  rw [homRel_iff_rightHomotopyRel]
+  intro h
+  induction h with
+  | rel _ _ h => exact h
+  | refl => exact .refl _
+  | symm _ _ _ h => exact .symm h
+  | trans _ _ _ _ _ h h' => exact .trans h h'
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]: If you add this lemma:
```lean
lemma homRel_equivalence_of_isFibrant_tgt {X Y : CofibrantObject C} [IsFibrant Y.obj] :
    Equivalence (homRel C (X := X) (Y := Y) · ·) :=
  ((RightHomotopyRel.equivalence _ _).comap (fun (f : X ⟶ Y) ↦ f.hom))
```
then the proof becomes
```suggestion
  dsimp [toπ]
  rw [← Functor.homRel_iff, Quotient.functor_homRel_eq_compClosure_eqvGen,
    HomRel.compClosure_eq_self, homRel_equivalence_of_isFibrant_tgt.eqvGen_eq]
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 6]
```diff
@@ -0,0 +1,219 @@
...
+
+/-- Given `X : C`, this is a cofibrant object `X'` equipped with a
+trivial fibration `X' ⟶ X` (see `π.pResolutionObj`). -/
+noncomputable def π.resolutionObj (X : C) : C :=
+    (exists_resolution X).choose
+
+instance (X : C) : IsCofibrant (π.resolutionObj X) :=
+  (π.exists_resolution X).choose_spec.choose
+
+/-- This is the trivial fibration `resolutionObj X ⟶ X` where
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
/-- This is a trivial fibration `resolutionObj X ⟶ X` where
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 7]
```diff
@@ -0,0 +1,219 @@
...
+  (π.exists_resolution X).choose_spec.choose_spec.choose_spec.2
+
+lemma π.exists_resolution_map {X Y : C} (f : X ⟶ Y) :
+    ∃ (g : resolutionObj X ⟶ resolutionObj Y),
+      g ≫ pResolutionObj Y = pResolutionObj X ≫ f := by
+  have sq : CommSq (initial.to _) (initial.to _) (pResolutionObj Y)
+    (pResolutionObj X ≫ f) := ⟨by simp⟩
+  exact ⟨sq.lift, sq.fac_right⟩
+
+/-- The lifting of a morphism `f : X ⟶ Y` on cofibrant resolutions.
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
/-- A lifting of a morphism `f : X ⟶ Y` on cofibrant resolutions.
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 8]
```diff
@@ -0,0 +1,219 @@
...
+    (h : LeftHomotopyRel (f ≫ pResolutionObj Y) (g ≫ pResolutionObj Y)) :
+    toπ.map (homMk f) = toπ.map (homMk g) := by
+  apply toπ_map_eq
+  rw [homRel_iff_rightHomotopyRel]
+  apply LeftHomotopyRel.rightHomotopyRel
+  rw [← LeftHomotopyClass.mk_eq_mk_iff] at h ⊢
+  exact (LeftHomotopyClass.postcomp_bijective_of_fibration_of_weakEquivalence
+    (X := X) (g := pResolutionObj Y)).1 h
+
+/-- The cofibrant resolution functor from a model category to the homotopy category
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
/-- A cofibrant resolution functor from a model category to the homotopy category
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 9]
```diff
@@ -0,0 +1,219 @@
...
+  map f := toπ.map (homMk (resolutionMap f))
+  map_id X := by
+    rw [← toπ.map_id]
+    exact resolutionObj_hom_ext (by simpa using .refl _)
+  map_comp {X₁ X₂ X₃} f g := by
+    rw [← toπ.map_comp]
+    exact resolutionObj_hom_ext (by simpa using .refl _)
+
+variable (C) in
+/-- The cofibration resolution functor, as a localizer morphism. -/
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
/-- The functor `π.resolution` as a localizer morphism. -/
```

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]: Thanks for the suggestion.

File: Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean [hunk 10]
```diff
@@ -0,0 +1,214 @@
...
+
+instance : HomRel.IsStableUnderPostcomp (homRel C) where
+  comp_right _ h := h.postcomp _
+
+instance : HomRel.IsStableUnderPrecomp (homRel C) where
+  comp_left _ _ _ h := h.precomp _
+
+lemma homRel_equivalence_of_isFibrant_tgt {X Y : CofibrantObject C} [IsFibrant Y.obj] :
+    Equivalence (homRel C (X := X) (Y := Y) · ·) :=
+  ((RightHomotopyRel.equivalence _ _).comap (fun (f : X ⟶ Y) ↦ f.hom))
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/CofibrantObjectHomotopy.lean]:
```suggestion
  (RightHomotopyRel.equivalence _ _).comap (fun (f : X ⟶ Y) ↦ f.hom)
```

**Review by robin-carlier — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors d+
